US07858640B2
[4-difluoromethoxy-2-ethyl-8-fluoro-3-(4-fluorobenzyl)quinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of [2-ethyl-8-fluoro-3-(4-fluorobenzyl)-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic acid methyl ester (1.5 g), N/N-dimethylformamide (30 mL), potassium carbonate (5.2 g) and acetic acid chlorodifluoromethyl ester (5.5 mL) was stirred at 70° C. for 4 days. The mixture was diluted with water and extracted with ethyl acetate. The combined extracts were dried over sodium sulfate and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with a mixture of cyclohexane and ethyl acetate (3:1 by volume) to afford title compounds, 0.50 g.

reactant | [2-ethyl-8-fluoro-3-(4-fluorobenzyl)-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic acid methyl ester | 1.5 g | COC(COC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=CC=C(C=C1)F)=O)=O | C21H19F2NO4
reactant | potassium carbonate | 5.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid chlorodifluoromethyl ester | 5.5 mL | ClC(F)(F)OC(C)=O | C3H3ClF2O2
solvent | water | O | H2O
product | [4-difluoromethoxy-2-ethyl-8-fluoro-3-(4-fluorobenzyl)quinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)CC)CC1=CC=C(C=C1)F)OC(F)F)=O | C22H19F4NO4
